US07842758B2
4,9-Dibromo-6,7-dimethyl[1,2,5]thiadiazolo[3,4-g]quinoxaline
5,6-Diamino-4,7-dibromobenzo[c][1,2,5]thiadiazole (0.257 g, 7.93×10−4 mol) was dissolved in acetic acid (30 ml). 2,3-Butanedione (0.30 ml, 3.4×10−3 mol) was added, and the reaction mixture was stirred for 19 h at room temperature under N2. Water (50 ml) was added, and the resulting precipitate was filtered, dissolved in CH2Cl2, washed with water, and dried over Na2SO4. After the solvent was evaporated, the residue was chromatographed on silica gel with CHCl3. Yield=0.256 g (86% based on 0.257 g of 5,6-diamino-4,7-dibromobenzo[c][1,2,5]thiadiazole). 1H NMR (360 MHz, CDCl3): δ 2.88 (s, 6H, —CH3). Chemical Ionization MS m/z: 371.8675 (M+) (calcd 371.868).

reactant | 5,6-Diamino-4,7-dibromobenzo[c][1,2,5]thiadiazole | 7.93×10−4 mol, 0.257 g | NC1=C(C=2C(=NSN2)C(=C1N)Br)Br | C6H4Br2N4S
reactant | 2,3-Butanedione | 3.4×10−3 mol, 0.30 ml | CC(C(C)=O)=O | C4H6O2
reactant | Water | 50 ml | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 4,9-Dibromo-6,7-dimethyl[1,2,5]thiadiazolo[3,4-g]quinoxaline | BrC=1C=2C(C(=C3N=C(C(=NC13)C)C)Br)=NSN2 | C10H6Br2N4S
